US07452895B2
1-(2-{4-[3-Methyl-4-(6-methylpyridin-3-yloxy)-phenylamino]-quinazolin-6-ylamino}-3a,4,6,6a-tetrahydropyrrolo[3,4-d]oxazol-5-yl)-ethanone is prepared from N4-[3-methyl-4-(6-methylpyridin-3-yloxy)-phenyl]-N6-(4,5,6,6a-tetrahydro-3aH-pyrrolo[3,4-d]oxazol-2-yl)-quinazoline-4,6-diamine by standard acetylation methods using acetic anhydride in a mixture of pyridine and methylene chloride. MS APCI (+) m/z 510 (M+1) detected; 1H NMR (400 mHz, CD3OD) δ 8.44 (s, 1H), 8.26 (d, 1H), 8.13 (d, 1H), 7.71 (m, 2H), 7.63 (m, 2H), 7.28 (m, 2H), 7.00 (d, 1H), 5.28 (m, 1H), 4.89 (m, 1H), 4.15 (d, 0.5H), 4.03 (m, 1H), 3.84 (d, 0.5H), 3.75 (m, 1H), 3.47 (m, 1H), 2.50 (s, 3H), 2.27 (s, 3H), 2.09 (d, 3H).

reactant | N4-[3-methyl-4-(6-methylpyridin-3-yloxy)-phenyl]-N6-(4,5,6,6a-tetrahydro-3aH-pyrrolo[3,4-d]oxazol-2-yl)-quinazoline-4,6-diamine | CC=1C=C(C=CC1OC=1C=NC(=CC1)C)NC1=NC=NC2=CC=C(C=C12)NC=1OC2C(N1)CNC2 | C26H25N7O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-(2-{4-[3-Methyl-4-(6-methylpyridin-3-yloxy)-phenylamino]-quinazolin-6-ylamino}-3a,4,6,6a-tetrahydropyrrolo[3,4-d]oxazol-5-yl)-ethanone | CC=1C=C(C=CC1OC=1C=NC(=CC1)C)NC1=NC=NC2=CC=C(C=C12)NC=1OC2C(N1)CN(C2)C(C)=O | C28H27N7O3
